US04430339
(a) 2-(3-Cycloundecylpropyl)-oxirane-2-carboxylic acid ethyl ester
2.2 g of the title compound, in the form of a colourless oil, which is purified by chromatography on silica gel (migrating agent: 90:10 petroleum ether/ethyl acetate; thin layer chromatography on silica gel with petroleum ether/ethyl acetate 9:1:Rf =0.5), are obtained by the procedure described in Example (1a) from 4.4 g of 5-cycloundecyl-2-methylenevaleric acid ethyl ester and 5.15 g of m-chloroperbenzoic acid in 40 ml of methylene chloride.

reactant | 5-cycloundecyl-2-methylenevaleric acid ethyl ester | 4.4 g | C(C)OC(C(CCCC1CCCCCCCCCC1)=C)=O | C19H34O2
reactant | m-chloroperbenzoic acid | 5.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Cycloundecylpropyl)-oxirane-2-carboxylic acid ethyl ester | C(C)OC(=O)C1(OC1)CCCC1CCCCCCCCCC1 | C19H34O3
